US08486952B2
1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ol (Preparation He) (374 mg, 1.034 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (301 mg, 1.344 mmol) were combined and purified as per Example 17 to give 1-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ol (89 mg, 0.162 mmol, 15.68% yield) as a slightly yellow solid. LC-MS (M+H)+=549.3. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.82 (1H, s), 7.64 (1H, br. s.), 7.50 (1H, s), 7.27-7.43 (3H, m), 7.20 (3H, t, J=8.70 Hz), 7.06 (1H, dd, J=8.39, 1.68 Hz), 4.36 (3H, br. s.), 3.73 (3H, br. s.), 2.98-3.26 (3H, m), 2.59 (1H, br. s.), 1.88-2.06 (1H, m), 1.62 (4H, br. s.), 1.25 (2H, br. s.), 1.19 (3H, s).

reactant | 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ol | 1.034 mmol, 374 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCC(CC2)(O)C | C19H21ClFN3O
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
product | 1-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-4-methylpiperidin-4-ol | 0.162 mmol, 89 mg, 15.68% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCC(CC2)(O)C)OC | C29H30ClFN6O2
